US07462630B2
Synthesis of 5H-dibenzo[a,d][7]annulen-5-ol:
4 ml of water, 0.45 ml of 1 N aqueous sodium hydroxide solution and 20 ml of a suspension of 1.50 g (7.27 mmol) of dibenzosuberenone in methanol were added to 200 mg (5.29 mmol) of sodium borohydride, and they were stirred overnight. Crystals thus precipitated were taken by the filtration, washed with water and dissolved in ethyl acetate. After drying over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure to obtain the title compound.

reactant | water | 4 ml | O | H2O
reactant | sodium hydroxide | 1 N, 0.45 ml | [OH-].[Na+]
reactant | dibenzosuberenone | 7.27 mmol, 1.50 g | C1=CC=C2C(=C1)C=CC3=CC=CC=C3C2=O | C15H10O
reactant | sodium borohydride | 5.29 mmol, 200 mg | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | 5H-dibenzo[a,d][7]annulen-5-ol | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)O | C15H12O
